US07521462B2
Sodium triacetoxyborohydride (0.88 g, 4.16 mmol) is added to a stirred solution of 4-(3-methyl-butylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.75 g, 2.77 mmol), benzofuran-2-carboxaldehyde (0.50 g, 3.46 mmol), and dichloromethane (14 ml). The reaction is stirred overnight at room temperature under nitrogen. The reaction is poured into aqueous saturated NaHCO3 (50 ml) and extracted with dichloromethane (25 ml×3). The organic layer is washed with aqueous saturated NaHCO3 and dried over Na2SO4, and filtered. The crude product is concentrated on a rotary evaporator and purified by flash chromatography on silica gel eluting with 0-30% (1:2 (10% NH4OH in methanol):ethanol) to yield (1.17 g) of 4-{[(benzofuran-2-yl)methyl]-(3-methylbutyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=401 (M+1); 1H NMR (CDCl3): δ=7.57-7.41 (2H, m), 7.30-7.16 (2H, m), 6.55 (1H, s), 4.15 (2H, brs), 3.81 (2H, s), 2.75-2.56 (6H, m), 1.80 (2H, brd), 1.63-1.53 (3H, m), 1.46 (9H, s), 1.42-1.33 (1H, m), 0.92-0.85 (6H, m).

reactant | Sodium triacetoxyborohydride | 4.16 mmol, 0.88 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(3-methyl-butylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.77 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCC(C)C | C15H30N2O2
reactant | benzofuran-2-carboxaldehyde | 3.46 mmol, 0.50 g | O1C(=CC2=C1C=CC=C2)C=O | C9H6O2
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
product | 4-{[(benzofuran-2-yl)methyl]-(3-methylbutyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CCC(C)C)CC=1OC2=C(C1)C=CC=C2 | C24H36N2O3
